US09428500B2
2-(4-benzyl-2-(trifluoromethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
In a Schlenk tube with a stirring bar, 4-benzyl-1-bromo-2-(trifluoromethyl)benzene (135 mg, 0.428 mmol), potassium acetate AcOK (126 mg, 3 eq), bis(pinacolato)diboron (141 mg, 1.3 eq), and PdCl2(dppf) (31 mg, 0.1 eq) were placed. The tube was evacuated and back-filled with nitrogen (this was repeated three additional times). Then, 6.1 mL of degassed 1,4-dioxane (C=0.07M) was introduced. The reaction mixture was allowed to stir at 100° C. for 14 h30. After cooling to r.t. and diluting with AcOEt, the mixture was filtered through a Celite® pad. The solvents were removed in vacuo. The crude product was purified by silica gel flash chromatography (PE/DCM 100:0 to 80:20) to afford the desired compound in 68% yield (105.5 mg) as uncolored oil. 1H NMR (300 MHz, CDCl3) δ 7.68 (d, J=7.6 Hz, 1H), 7.52 (s, 1H), 7.35 (d, J=7.6 Hz, 1H), 7.33-7.27 (m, 2H), 7.23 (t, J=7.2 Hz, 1H), 7.15 (d, J=8.2 Hz, 2H), 4.04 (s, 2H), 1.38 (s, 12H); 13C NMR (75 MHz, CDCl3) δ 143.5 (C), 140.1 (C), 135.3 (CH), 134.2 (d, J=31.2 Hz, C), 131.4 (CH), 129.0 (CH), 128.7 (CH), 126.5 (CH), 126.0 (q, J=4.7 Hz, CH), 124.5 (q, J=273.5 Hz, C), 84.5 (2C), 41.8 (CH2), 24.7 (4CH3); MS (ESI) m/z: 393.1 [M−H+MeOH]−; 420.9 [M−H+HCOOH]−.

reactant | 4-benzyl-1-bromo-2-(trifluoromethyl)benzene | 0.428 mmol, 135 mg | C(C1=CC=CC=C1)C1=CC(=C(C=C1)Br)C(F)(F)F | C14H10BrF3
reactant | bis(pinacolato)diboron | 141 mg, 1.3 eq | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
catalyst | PdCl2(dppf) | 31 mg, 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(4-benzyl-2-(trifluoromethyl)phenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 68% yield | C(C1=CC=CC=C1)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C(F)(F)F | C20H22BF3O2
